US06936602B1
To a solution of methyl 7-(4-butoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate (400 mg) and furfural (485 mg) in 1,2-dichloroethane (15 ml) was added sodium triacetoxyborohydride (536 mg), and the mixture was stirred under nitrogen atmosphere at room temperature for 1 day. Then, water was added to the mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1) to give methyl 7-(4-butoxyethoxyphenyl)-1-(2-furylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate (319 mg) as yellow oil.

reactant | methyl 7-(4-butoxyethoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 400 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | furfural | 485 mg | C(C1=CC=CO1)=O | C5H4O2
reactant | sodium triacetoxyborohydride | 536 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | methyl 7-(4-butoxyethoxyphenyl)-1-(2-furylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 319 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC=2OC=CC2)C(=O)OC)C1 | C29H33NO5
